US06900216B2
A solution of N,N-dimethylthiocarbamoyl chloride (10 g) in tetrahydrofuran (40 ml) was added dropwise at <12° C. over 30 minutes to a stirred solution of 3-methoxy-2-hydroxybenzaldehyde (12.3 g) and potassium hydroxide (4.6 g) in water (105 ml) then the mixture was stirred at ambient temperature for 15 minutes. 10% Aqueous potassium hydroxide solution (30 ml) was added, then the product was extracted into toluene (3×150 ml). The combined extracts were washed with water (150 ml) then dried (MgSO4). The solvents were removed in vacuo and the residue was crystallised from methanol to give 2-(N,N-dimethylthiocarbamoyloxy)-3-methoxybenzaldehyde (10.5 g) as a yellow solid which was used without further purification.

reactant | N,N-dimethylthiocarbamoyl chloride | 10 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | 3-methoxy-2-hydroxybenzaldehyde | 12.3 g | COC=1C(=C(C=O)C=CC1)O | C8H8O3
reactant | potassium hydroxide | 4.6 g | [OH-].[K+]
reactant | potassium hydroxide | 30 ml | [OH-].[K+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 105 ml | O | H2O
product | 2-(N,N-dimethylthiocarbamoyloxy)-3-methoxybenzaldehyde | 10.5 g | CN(C(=S)OC1=C(C=O)C=CC=C1OC)C | C11H13NO3S
